US09388173B2
Step 2: (S)-1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(quinolin-8-yl)phenoxy)propan-2-ol
A mixture of (S)-8-(3-(oxiran-2-ylmethoxy)phenyl)quinoline (270 mg, 1 mmol), 1,2,3,4-tetrahydroisoquinoline (133 mg, 1 mmol) in EtOH (5 mL) was stirred at 120° C. under microwave heating for 30 minutes. After evaporation of the solvent, the residue was purified by prep-HPLC to afford the desired title compound (43.9 mg, Yield 14.6%). 1H NMR (400 MHz, MeOD): δ 8.80-8.79 (m, 1H), 8.38 (d, J=8 Hz, 1H), 7.94 (d, J=8.4 Hz, 1H), 7.74-7.72 (m, 1H), 7.67-7.63 (m, 1H), 7.54-7.51 (m, 1H), 7.41-7.37 (m, 1H), 7.22-7.16 (m, 2H), 7.10-7.00 (m, 5H), 4.27-4.25 (m, 1H), 4.15-4.03 (m, 2H), 3.74 (s, 2H), 2.88-2.78 (m, 5H), 2.73-2.70 (m, 1H) ppm; ESI-MS (m/z): 411.1 [M+1]+.

reactant | (S)-8-(3-(oxiran-2-ylmethoxy)phenyl)quinoline | 1 mmol, 270 mg | O1[C@@H](C1)COC=1C=C(C=CC1)C=1C=CC=C2C=CC=NC12 | C18H15NO2
reactant | 1,2,3,4-tetrahydroisoquinoline | 1 mmol, 133 mg | C1NCCC2=CC=CC=C12 | C9H11N
solvent | EtOH | 5 mL | CCO | C2H6O
product | (S)-1-(3,4-dihydroisoquinolin-2(1H)-yl)-3-(3-(quinolin-8-yl)phenoxy)propan-2-ol | 43.9 mg, Yield 14.6% | C1N(CCC2=CC=CC=C12)C[C@@H](COC1=CC(=CC=C1)C=1C=CC=C2C=CC=NC12)O | C27H26N2O2
